US07399759B2
Diethyl [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methylamidophosphate
2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (400 mg, 1.0 mmol) and diethyl chlorophosphate (360 mg, 2.1 mmol) were dissolved in acetonitrile (15 ml), and potassium carbonate (430 mg, 3.1 mmol) was added thereto. The mixture was stirred at room temperature for 15 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-methanol (8:1, v/v) were collected, concentrated and recrystallized from diisopropyl ether-methanol to give the titled compound (225 mg, 53%) as white crystals.

reactant | 2-[6-(Aminomethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.0 mmol, 400 mg | FC(C(=O)O)(F)F.NCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | diethyl chlorophosphate | 2.1 mmol, 360 mg | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | potassium carbonate | 3.1 mmol, 430 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Diethyl [6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methylamidophosphate | 225 mg, 53% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CNP(=O)(OCC)OCC | C18H20N3O4PS
